US08012966B2
A stirred solution of 4-methyl-2-[(2-piperidin-1-yl-ethyl carbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester (3.46 g, 10.8 mmol) in anhydrous tetrahydrofuran (20 ml) was added dropwise slowly with 1M borane-tetrafuran complex in tetrafuran (32.4 ml, 32.4 mmol) under an argon atmosphere. Upon completion of the addition, the mixture was stirred at room temperature for 1 hour and heated to reflux for another 5 hours. The mixture was added with cold water (5 ml) and 1N hydrochloric acid (15 ml) dropwise and stirred for 5 minutes. The mixture was adjusted to pH 10 with 10% aqueous sodium hydroxide solution and extracted with ethyl acetate (10 ml×5). The combined organic extracts were washed with brine (15 ml), dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 4-methyl-2-[2-(2-piperidin-1-yl-ethylamino)-ethyl]-1H-pyrrole-3-carboxylic acid ethyl ester (3.07 g) as a brown oil which was used as such.

reactant | 4-methyl-2-[(2-piperidin-1-yl-ethyl carbamoyl)-methyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 10.8 mmol, 3.46 g | C(C)OC(=O)C1=C(NC=C1C)CC(NCCN1CCCCC1)=O | C17H27N3O3
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | 1N, 15 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-methyl-2-[2-(2-piperidin-1-yl-ethylamino)-ethyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 3.07 g | C(C)OC(=O)C1=C(NC=C1C)CCNCCN1CCCCC1 | C17H29N3O2
